US04051248
C. 1-[(1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-4-anilino isonipecotamide
Finely-ground 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)-methyl]-4-anilino isonipecotamide, hydrochloride (1:1) (5.0 g) is slurried in methanol (100 ml) and cooled in ice. To this mixture is added an aqueous solution of sodium borohydride (3.0 g) in water (25 ml). The resulting mixture is stirred for 15 hours at room temperature under nitrogen. Dilution of the reaction mixture with water (200 ml), extraction with methylene chloride, and concentration of the dried organic solution give the title compound.

reactant | 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)-methyl]-4-anilino isonipecotamide, hydrochloride | 5.0 g | Cl.O=C1C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1
reactant | sodium borohydride | 3.0 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 1-[(1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-4-anilino isonipecotamide | OC1C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H29N3O2
